US04900822
(a) Triacetyl-3,7-dihydroxyphenoxazine
2.51 g. (10 mmole) resazurin sodium salt and 4.17 g. (22 mmole) stannous chloride were heated under reflux for 1 hour in a mixture of 6.7 ml. (72 mmole) acetic anhydride and 8 ml. glacial acetic acid, a clear brown solution gradually being formed. About 30 ml. methanol were then added thereto in an ice bath, while stirring, spontaneous crystallisation thereby taking place. After 20 hours at 0° C., the crystals were filtered off with suction, washed with ice cold isopropanol and petroleum ether and dried in a vacuum over anhydrous calcium chloride. There were obtained 2.64 g. (77% of theory) of beige coloured needles; m.p. 208° C. Rf value: 0.45 (TLC on silica gel; chloroform/ethyl acetate 2:1 v/v).

reactant | resazurin sodium salt | 10 mmole | C1=CC2=C(C=C1[O-])OC3=CC(=O)C=CC3=[N+]2[O-].[Na+]
reactant | acetic anhydride | 72 mmole | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | methanol | CO | CH4O
reactant | chloroform ethyl acetate | C(Cl)(Cl)Cl.C(C)(=O)OCC
product | Triacetyl-3,7-dihydroxyphenoxazine | C(C)(=O)C1=C(C(=C(C=2NC3=CC=C(C=C3OC12)O)C(C)=O)C(C)=O)O | C18H15NO6
